US07635715B2
Step E: Preparation of 1,1-Dimethylethyl N-((6-methyl-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate
Ethyl 4-hydroxy-1,1,6-trimethyl-2-oxo-naphthalene-3-carboxylate (750 mg, 2734 μmol) was dissolved in 1,4-dioxane (2734 μL) and N-ethyl-N-isopropylpropan-2-amine (1429 μL, 8202 μmol). tert-Butyl 2-aminoacetate hydrochloride (687 mg, 4101 μmol) was added, and the reaction was stirred at 80° C. for 1 hour. The reaction mixture was cooled to ambient temperature, diluted with 100 mL of EtOAc, added to a separatory funnel, partitioned with NaHCO3 (saturated, aqueous), washed 2 times with 50 mL of NaHCO3 (saturated, aqueous), separated, dried over Na2SO4, and concentrated in vacuo to give the title compound (266 mg) as a white solid after flash chromatography. MS (m/z)=304(M+H-tBu)+.

reactant | Ethyl 4-hydroxy-1,1,6-trimethyl-2-oxo-naphthalene-3-carboxylate | 2734 μmol, 750 mg | OC1=C(C(C(C2=CC=C(C=C12)C)(C)C)=O)C(=O)OCC | C16H18O4
reactant | N-ethyl-N-isopropylpropan-2-amine | 8202 μmol, 1429 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | tert-Butyl 2-aminoacetate hydrochloride | 4101 μmol, 687 mg | Cl.NCC(=O)OC(C)(C)C
solvent | 1,4-dioxane | 2734 μL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 1,1-Dimethylethyl N-((6-methyl-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate | 266 mg | CC=1C=C2C(=C(C(C(C2=CC1)(C)C)=O)C(=O)NCC(=O)OC(C)(C)C)O | C20H25NO5
